************************************************************************
* auCdl Netlist:
* 
* Library Name:  bitslice_rv32Lib
* Top Cell Name: alu
* View Name:     schematic
* Netlisted on:  Mar 22 20:22:10 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    mux2
* View Name:    schematic
************************************************************************

.SUBCKT mux2 A B S0 Z
*.PININFO A:I B:I S0:I Z:O
XI2 B S0 net1 Z / trans
XI1 A net1 S0 Z / trans
XI3 S0 net1 / inv
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    muxinv2
* View Name:    schematic
************************************************************************

.SUBCKT muxinv2 A B S0 Z
*.PININFO A:I B:I S0:I Z:O
XI0 A B S0 net1 / mux2
XI1 net1 Z / inv
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    fa
* View Name:    schematic
************************************************************************

.SUBCKT fa A B Cin Cout Sum
*.PININFO A:I B:I Cin:I Cout:O Sum:O
XI1 Cin Cinb / inv
XI13 Cout net10 / inv
XI11 Cin Cinb A mux1 / muxinv2
XI14 net10 B mux1 Sum / mux2
XI12 B A mux1 Cout / mux2
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    mux4
* View Name:    schematic
************************************************************************

.SUBCKT mux4 A B C D S0 S1 Z
*.PININFO A:I B:I C:I D:I S0:I S1:I Z:O
XI5 net12 S1 S1b Z / trans
XI4 net4 S1b S1 Z / trans
XI3 D S0 S0b net12 / trans
XI2 C S0b S0 net12 / trans
XI1 B S0 S0b net4 / trans
XI0 A S0b S0 net4 / trans
XI7 S1 S1b / inv
XI6 S0 S0b / inv
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    muxinv4
* View Name:    schematic
************************************************************************

.SUBCKT muxinv4 A B C D S0 S1 Z
*.PININFO A:I B:I C:I D:I S0:I S1:I Z:O
XI0 A B C D S0 S1 net7 / mux4
XI1 net7 Z / inv
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 A B Z
*.PININFO A:I B:I Z:O
MM1 net8 A vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM0 Z B net8 vss! NMOS_VTL W=180.0n L=50n m=1
MM3 Z B vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM2 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 A B Z
*.PININFO A:I B:I Z:O
MM1 Z B vss! vss! NMOS_VTL W=90n L=50n m=1
MM0 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
MM3 Z B net5 vdd! PMOS_VTL W=360.0n L=50n m=1
MM2 net5 A vdd! vdd! PMOS_VTL W=360.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    xnor2
* View Name:    schematic
************************************************************************

.SUBCKT xnor2 A B Z
*.PININFO A:I B:I Z:O
MM6 net8 A vdd! vdd! PMOS_VTL W=270.0n L=50n m=1
MM5 Z B net8 vdd! PMOS_VTL W=270.0n L=50n m=1
MM4 Z net4 vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 net4 B vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM0 net4 A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM9 net3 net4 vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM8 Z B net3 vss! NMOS_VTL W=180.0n L=50n m=1
MM7 Z A net3 vss! NMOS_VTL W=180.0n L=50n m=1
MM3 net1 B vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM2 net4 A net1 vss! NMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: bitslice_rv32Lib
* Cell Name:    alu
* View Name:    schematic
************************************************************************

.SUBCKT alu alu_cin alu_cout alu_mux_1_out alu_mux_2_out alu_op<1> alu_op<0> 
+ alu_out
*.PININFO alu_cin:I alu_mux_1_out:I alu_mux_2_out:I alu_op<1>:I alu_op<0>:I 
*.PININFO alu_cout:O alu_out:O
XI0 alu_mux_1_out alu_mux_2_out alu_cin alu_cout net5 / fa
XI15 net1 xor or and alu_op<0> alu_op<1> alu_out / muxinv4
XI3 alu_mux_1_out alu_mux_2_out and / nand2
XI4 alu_mux_1_out alu_mux_2_out or / nor2
XI5 alu_mux_1_out alu_mux_2_out xor / xnor2
XI16 net5 net1 / inv
.ENDS

