************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_rv32Lib
* Top Cell Name: bit1
* View Name:     schematic
* Netlisted on:  Mar 22 09:24:02 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        vss!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vdd!
*+    vss!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    bit1
* View Name:    schematic
************************************************************************

.SUBCKT bit1 A R W Z
*.PININFO A:I R:I W:I Z:O
XI13 W Wb / inv
XI15 R Rb / inv
XI2 net1 Bit / inv
XI1 net2 net1 / inv
XI14 Bit R Rb Z / trans
XI12 A W Wb net2 / trans
XI16 Bit Wb W net2 / trans
.ENDS

