************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_rv32Lib
* Top Cell Name: bit2
* View Name:     schematic
* Netlisted on:  Mar 22 09:48:42 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    bit2
* View Name:    schematic
************************************************************************

.SUBCKT bit2 A R1 R2 W Z1 Z2
*.PININFO A:I R1:I R2:I W:I Z1:B Z2:B
XI10 net2 Bit / inv
XI4 net1 net2 / inv
XI0 R1 R1b / inv
XI13 W Wb / inv
XI15 R2 R2b / inv
XI16 Bit Wb W net1 / trans
XI5 A W Wb net1 / trans
XI3 Bit R2 R2b Z2 / trans
XI14 Bit R1 R1b Z1 / trans
.ENDS

